US06518264B2
511 mg of supported EDCI (2.5 mM), 11.5 mg of N,N-dimethylglycine and then 5 cm3 of dichloromethane are successively added, at a temperature close to 20° C., to 54 mg of 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine. After stirring for 24 hours at a temperature close to 20° C., 35 mg of N,N-dimethylglycine are added. After stirring for 96 hours at a temperature close to 20° C., the reaction mixture is filtered on sintered glass. The resin is rinsed with three times 2.5 cm3 of dichloromethane. The combined filtrates are washed with 10 cm3 of water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (5 kPa) at a temperature close to 20° C. 53 mg of 1-{4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazin-1-yl}-2-dimethylaminoethanone are thus obtained in the form of a beige foam [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm: 2.20 (s, 6H), 2.94 (s, 3H), 3.12 (s, 2H), 3.16 (mt, 4H), 3.58 (mt, 2H), 3.68 (mt, 2H), 3.80 (mt, 2H), 4.19 (mt, 2H), 4.78 (s, 1H), 6.81 (broad d, J=8 Hz, 1H), 6.93 (broad s, 1H), 6.99 (dd, J=8 and 2.5 Hz, 1H), 7.26 (t, J=8 Hz, 1H), 7.36 (d, J=8 Hz, 4H), 7.46 (d, J=8 Hz, 4H)].

reactant | EDCI | 2.5 mM, 511 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | N,N-dimethylglycine | 11.5 mg | CN(CC(=O)O)C | C4H9NO2
reactant | 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine | 54 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C=CC1)N1CCNCC1)C1=CC=C(C=C1)Cl | C28H29Cl2N3O2S
reactant | N,N-dimethylglycine | 35 mg | CN(CC(=O)O)C | C4H9NO2
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
product | 1-{4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazin-1-yl}-2-dimethylaminoethanone | 53 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C=CC1)N1CCN(CC1)C(CN(C)C)=O)C1=CC=C(C=C1)Cl | C32H36Cl2N4O3S
